US06265415B1
Synthesis of 2,6-dimethyl-4-fluorobenzylbromide
A mixture of 3,5-dimethyl-fluorobenzene (5 g, 0.04 mol), paraformaldehyde (15 g), hydrobromic acid (70 ml) (30% in acetic acid) and acetic acid (25 ml) was stirred at ambient temperature for 4.5 h. To the mixture were water and petroleum ether added and the organic layer was separated dried over anhydrous sodium sulfate and evaporated carefully under reduced pressure. The residue was purified by column chromatography on silica gel with petroleum ether as eluent to give the desired product. (3.7 g, 43%)

reactant | 3,5-dimethyl-fluorobenzene | 0.04 mol, 5 g | CC=1C=C(C=C(C1)C)F | C8H9F
reactant | paraformaldehyde | 15 g | C=O | CH2O
reactant | hydrobromic acid | 70 ml | Br | BrH
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2,6-dimethyl-4-fluorobenzylbromide | CC1=C(CBr)C(=CC(=C1)F)C | C9H10BrF
